US08193164B2
4-Amino-piperidine-1-carboxylic acid (4-amino-cyclohexyl)-amide is prepared analogously to (R)-3-amino-pyrrolidine-1-carboxylic acid (4-amino-cyclohexyl)-amide (Intermediate IF) by replacing (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester with piperidin-4-yl-carbamic acid tert-butyl ester.

reactant | (R)-3-amino-pyrrolidine-1-carboxylic acid (4-amino-cyclohexyl)-amide | NC1CCC(CC1)NC(=O)N1C[C@@H](CC1)N | C11H22N4O
reactant | piperidin-4-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
product | 4-Amino-piperidine-1-carboxylic acid (4-amino-cyclohexyl)-amide | NC1CCC(CC1)NC(=O)N1CCC(CC1)N | C12H24N4O
